US08633186B2
2-sulfamoylaminocyclopent-1-enecarbonitrile
To a solution of 2-aminocyclopent-1-enecarbonitrile (440 mg, 4.07 mmol) in 10 mL of DMA was added sulfamoyl chloride (941.3 mg, 8.15 mmol), and the resultant mixture was stirred at room temperature under nitrogen for 2 h. Then it was diluted with EtOAc, the organic layer was washed with brine and dried down under vacuum, and the residue was purified by chromatography on silica gel eluting with EtOAc/Hexane to give the title compound. 1H NMR (400 MHz, CDCl3) δ 2.04-1.97 (m, 2H), 2.61-2.57 (m, 2H), 2.9-2.86 (m, 2H), 5.66 (s, 2H), 8.04 (s, 1H).

reactant | 2-aminocyclopent-1-enecarbonitrile | 4.07 mmol, 440 mg | NC1=C(CCC1)C#N | C6H8N2
reactant | sulfamoyl chloride | 8.15 mmol, 941.3 mg | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-sulfamoylaminocyclopent-1-enecarbonitrile | S(N)(=O)(=O)NC1=C(CCC1)C#N | C6H9N3O2S
